US04554279
A. 6-Methoxy-8-nitro-5-(2,2,2-trifluoroethoxy)quinoline
To a solution of 0.5 g (0.02 g atom) of sodium in 30 ml of 2,2,2-trifluoroethanol were added 5.6 g (0.02 mole) of 5-bromo-6-methoxy-8-nitroquinoline and 7 ml of pyridine. The mixture was heated under reflux for 158 hr and filtered to remove 1.3 g of starting material. The filtrate was concentrated to 50 ml, diluted with diethyl ether, washed with water and dried (potassium carbonate). Solvent removal left a tan crystalline powder, mp 109°-115° which was extracted with benzene. (A trace of insoluble red crystals was discarded.) The benzene solution was concentrated and the resulting residue was crystallized from diethyl ether-petroleum ether (20°-40°) (5:1) to give 0.4 g of pale tan crystals of 6-methoxy-8-nitro-5-(2,2,2-trifluoroethoxy)quinoline, mp 117°-119°. Concentration of the mother liquor provided an additional 2 g of product, mp 100°-111°. Crystallization of the first fraction from diethyl ether and vacuum drying, overnight, at 60°, gave the analytical sample, mp 120°-121°.

reactant | sodium | 0.5 g | [Na] | Na
reactant | 5-bromo-6-methoxy-8-nitroquinoline | 0.02 mole, 5.6 g | BrC1=C2C=CC=NC2=C(C=C1OC)[N+](=O)[O-] | C10H7BrN2O3
reactant | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trifluoroethanol | 30 ml | FC(CO)(F)F | C2H3F3O
product | 6-Methoxy-8-nitro-5-(2,2,2-trifluoroethoxy)quinoline | 0.4 g | COC=1C(=C2C=CC=NC2=C(C1)[N+](=O)[O-])OCC(F)(F)F | C12H9F3N2O4
